US07414063B2
(2-bromo-phenoxy)-acetic acid methyl ester
Powdered potassium carbonate (3.84 g, 27.8 mmol) is added to a stirred solution of 2-bromophenol (3.20 g, 18.5 mmol) and methyl bromoacetate (3.11 g, 20.3 mmol) in anhydrous DMF (20 mL). The resultant mixture is stirred at ambient temperature under nitrogen for 16 hours. Water (140 mL) and EtOAc (120 mL) are added to the mixture and the two-layered solution is stirred vigorously for 3 minutes. The organic layer is separated, dried over MgSO4, filtered and concentrated. The crude product is chromatographed oh silica (gradient 2-8% EtOAc in hexane) to give 4.39 g (17.9 mmol, 97% yield) of the title compound. EIMS: m/z 244 (M+, 79Br), 246 (M+, 81Br).

reactant | potassium carbonate | 27.8 mmol, 3.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromophenol | 18.5 mmol, 3.20 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | methyl bromoacetate | 20.3 mmol, 3.11 g | BrCC(=O)OC | C3H5BrO2
reactant | Water | 140 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
product | (2-bromo-phenoxy)-acetic acid methyl ester | 17.9 mmol, 4.39 g, 97% yield | COC(COC1=C(C=CC=C1)Br)=O | C9H9BrO3
